US06034099
From the reaction of 3-hydrazinobenzonitrile and ethylacetoacetate, 3-(4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)-benzonitrile is obtained. Subsequent reaction with 2-ethylaniline yields 3-(4-(2-ethylanilinomethylene)-4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)-benzonitrile, Mp 210.8° C.

reactant | 3-hydrazinobenzonitrile | N(N)C=1C=C(C#N)C=CC1 | C7H7N3
reactant | ethylacetoacetate | C(C)OC(CC(=O)C)=O | C6H10O3
product | 3-(4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)-benzonitrile | CC1=NN(C(C1)=O)C=1C=C(C#N)C=CC1 | C11H9N3O
